Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
bacitracin
 
Attending: ___.
 
Chief Complaint:
Fall from standing
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ pmhX of Htn, colon ca, lung ca, s/p fall. CT spine B/l 
mildly displaced C7 fx, C6 and T1, CT head small right frontal 
subarachnoid and subdural hematoma, MRI w/ ligamentous injury 
and disruption of anterior/posterior longitudinal ligaments and 
ligamentum flavum @ C7-T1 
 
Past Medical History:
Hypertension, colon cancer, lung cancer. 
 
Social History:
___
Family History:
noncontributory
 
Physical Exam:
General: sitting up in chair next to nurses station, in NAD,
chair alarmed
HEENT: laceration over left forehead, closed, EOMI, right pupil
~1mm smaller than left
CV: RRR, skin warm and well perfused
Pulm: Speaking in full sentences without noted SOB
Abd: NT, ND
Skin: Laceration to forehead as above, left wrist with further
laceration. no erythema or induration on right wrist.
Psych: Wandering conversation, very tangential, calm,
redirectable
MSK: ___ to grip, WE, EF, EE, HF, DF b/l. Right hand/wrist
generally nontender to palpation, with mild tenderness to ___
metacarpal and ulnar styloid process. ___ negative. Full
intrinsic hand strength.
Neuro: sensation intact to light touch in median, radial, ulnar
distribution on right hand. Able to match taping speed of one
finger on right hand, unable to complete sequenced finger taping
on either side. ___ orientation amnesia test with 36/100
(<76 is impaired). Unable to copy a cube. Unable to name
similarities between two objects x2 (boat and a duck, scale and 
a
ruler). Unable to decipher a parable. 

DISCHARGE PHYSICAL EXAM:
Vitals: 24 HR Data (last updated ___ @ 2334)
    Temp: 98.2 (Tm 98.3), BP: 124/68 (113-125/58-70), HR: 71
(71-78), RR: 18 (___), O2 sat: 98% (95-100), O2 delivery: Ra
 Gen: [x] NAD, [] AAOx3
 CV: [x] RRR, [] murmur
 Resp: [x] breaths unlabored, [] CTAB, [] wheezing, [] rales
 Abdomen: [x] soft, [] distended, [x] tender, diffusely []
rebound/guarding
 Wound: [] incisions clean, dry, intact
 Ext: [x] warm, [] tender, [] edema
 
Pertinent Results:
___ 06:12AM BLOOD WBC-5.6 RBC-2.68* Hgb-8.9* Hct-27.8* 
MCV-104* MCH-33.2* MCHC-32.0 RDW-12.4 RDWSD-47.0* Plt ___
___ 06:12AM BLOOD Glucose-101* UreaN-30* Creat-1.0 Na-141 
K-3.9 Cl-104 HCO3-24 AnGap-13
___ 06:12AM BLOOD Calcium-8.7 Phos-3.5 Mg-1.8

IMAGING:
CT Spine ___ Contrast
1. Bilateral C7 lamina fractures and fracture of the right C7-T1 
facet and 
right C7 transverse process, with multiple bone fragments seen 
within the 
vertebral canal.  Spinous process tip fractures at C7 and T1.  
Possible 
fracture from the tip of the right C6 facet process at the C6-C7 
facet, versus 
fragment from the comminuted C7 fracture.  Facet joint widening 
at C7-T1. 
2. 4 mm retrolisthesis of C3 on C4, concern for traumatic 
etiology.  Slight 
widening of the anterior most aspect of the bilateral facet 
joints at this 
level is concerning for facet capsule disruption. 
3. Heterogeneous multinodular thyroid with multiple 
calcifications. 

CT Head ___ Contrast
1.  Acute right frontal subarachnoid hemorrhage with possible 
associated small 
amount of acute subdural hematoma, without substantial mass 
effect.  No 
substantial change from prior study. 
2.  No acute fracture. 

MR ___ Contrast
1. Known fractures at the C7 level are better seen on previous 
CT.  In 
addition, there is subtle superior endplate edema at the T1 
level which could 
reflect bone contusion and/or nondisplaced fracture which is 
less apparent by 
CT. 
2. There is evidence for ligamentous injury with disruption of 
the anterior 
and posterior longitudinal ligaments as well as suspected injury 
to the 
ligamentum flavum at the C7-T1 level, with subtle 
anterolisthesis of C7 on T1 
which is more apparent than on CT.  Associated discal injury and 
suspected 
small volume of extradural hemorrhage at this level with no 
spinal cord 
compression or evidence of spinal cord contusion. 
3. Facet capsule injury and fluid on the right at C7-T1 and 
possibly also 
C6-C7. 
4. No definite evidence for destruction of the anterior 
posterior longitudinal 
ligaments at the C3-C4 level, where retrolisthesis may be 
degenerative. 
5. Extensive soft tissue edema in the posterior paraspinal soft 
tissues may 
reflect muscular injury. 

CT Head ___ Contrast
Solution of blood products, but no change in extent of right 
frontal 
subarachnoid and subdural hemorrhages.  There is no significant 
mass effect. 

 
Brief Hospital Course:
Mr. ___ is a ___ yo right-handed M with PMH of sz
disorder who experienced an unwitnessed fall on ___. He 
remains
anamnestic to the event, though noted that after the fall, he 
was
able to walk up 13 stairs in his home and call ___. Upon
presentation to the ED, he was noted to have right frontal
SAH/SDH on CT, with further C7-T1 lamina fractures. Follow up 
MRI
___ demonstrated ligamentous injury (ALL and PLL), though no
cord impingement. Neurosurgery was consulted and he was placed 
in hard collar for non-operative
management (2 weeks). He was seen by NSGY and Keppra was felt to
not be appropriate (on chronic carbamazepine). Plastic surgery 
was consulted for closure of a left ear laceration.

During admission, he was seen by OT and ___. They note he
currently is able to ambulate 60' with contact guard. He
continues to have needs for max assistance for climbing stairs
and min assistance for transfer from bed to chair. They feel he
will be able to tolerate >3 hours day of therapy in an acute
inpatient setting.

He has had some issues with overnight agitation, having a code
purple (psych) on ___ for which he received Haldol. He was
initially AOx2 with noted confabulation, though this has
improved. He has also intermittently required straight
catheterization for urinary retention. 

He improved with psychiatry and ___ consultation and received 
Seroquel at night which he did well on. He was discharged in 
good condition to acute rehab.
 
Medications on Admission:
Lisinopril
Carbamazepine
Atenolol
Paroxetine

 
Discharge Medications:
Continue home paroxetine
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild/Fever  
2.  QUEtiapine Fumarate 25 mg PO QHS  
3.  Atenolol 50 mg PO DAILY  
4.  CarBAMazepine 300 mg PO BID  
5.  Lisinopril 20 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Mildly displaced C7 fx, C6 and T1, CT head small right frontal 
subarachnoid and subdural hematoma, MRI w/ ligamentous injury 
and disruption of anterior/posterior longitudinal ligaments and 
ligamentum flavum @ C7-T1
Right ear laceration

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ for 
evaluation of/following a fall. You are recovering well and are 
now ready for discharge. Please follow the instructions below to 
continue your recovery:

You are to wear your hard cervical collar at all times to 
protect your neck. You will follow up with Dr. ___ the 
neurosurgery department in 2 weeks. At that time, a CT scan will 
be obtained to re-evaluate your cervical spine. 

You had sutures placed in your left ear and will follow up with 
the plastic surgery clinic in 7 days for suture removal. 

General Surgery:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid driving or 
operating heavy machinery while taking pain medications.

We wish you all the best,
Your ___ Care Team
 
Followup Instructions:
___